US08283353B2
tert-butyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate
To a suspension of 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (21.1 g) and tetrabutylammonium hydrogen sulfate (1.5 g) in toluene (160 mL)-50% sodium hydroxide (160 mL) was added dropwise tert-butyl bromoacetate (20 mL) at 50° C., and the mixture was stirred at 50° C. for 1.5 hr. The mixture was allowed to cool to room temperature, diluted with ethyl acetate and then neutralized with 6M hydrochloric acid. The mixture was extracted with ethyl acetate, and the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was purified by silica gel column chromatography to give the title compound as an amorphous pale-yellow solid (24.4 g, 93%).

reactant | 4′-{[4-(trans-4-hydroxycyclohexyl)-5-oxo-7-propyl-4,5-dihydropyrazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 21.1 g | O[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CC2 | C29H30N4O2
reactant | tert-butyl bromoacetate | 20 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | hydrochloric acid | 6M | Cl | ClH
catalyst | tetrabutylammonium hydrogen sulfate | 1.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 160 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propylpyrazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)oxy]acetate | 24.4 g, 93% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CC2)[C@@H]2CC[C@H](CC2)OCC(=O)OC(C)(C)C)=O | C35H40N4O4
